US05102667
(3aRS,7aRS)-2-benzyl-7,7-diphenyl-4-perhydroisoindolone (150 g), methanol (1,500 cc) and 1N hydrochloric acid (450 cc) are added to 10% palladiumon-charcoal (15 g); the reaction mixture is hydrogenated, with stirring, at ambient temperature and under atmospheric pressure. After a reaction time of 5 hours, the theoretical volume of hydrogen has been absorbed; the reaction mixture is filtered and the filtrate is then concentrated to dryness under reduced pressure (2.7 kPa); the residue is crystallized from ethanol (200 cc); the crystals obtained are drained, washed with ethanol (50 cc) and dried. (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (110 g) melting at 270° C. with decomposition is obtained.

reactant | (3aRS,7aRS)-2-benzyl-7,7-diphenyl-4-perhydroisoindolone | 150 g | C(C1=CC=CC=C1)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H27NO
reactant | hydrochloric acid | 1N, 450 cc | Cl | ClH
solvent | methanol | 1,500 cc | CO | CH4O
product | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 110 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1 | InChI=1S/C20H21NO.ClH/c22-19-11-12-20(15-7-3-1-4-8-15,16-9-5-2-6-10-16)18-14-21-13-17(18)19;/h1-10,17-18,21H,11-14H2;1H
